US05998442
[2-(3-Chloro-4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone (1.0 g, 2.3 mmol) in chlorobenzene (10 mL) was treated with a 0.69 M THF solution of 3-chloro-4-methoxyphenylmagnesium bromide (11 mL, 7.6 mmol) (prepared from 4-bromo-2-chloroanisole, catalytic iodine, and magnesium turnings in THF) to provide, after chromatography (silica gel, 5-10% MeOH in CH2Cl2) 760 mg (62%) of the title compound as a yellow foam: 1H NMR d 1.43 (m, 2H), 1.58 (m, 4H), 2.73 (t, J=5.9 Hz, 2H), 3.82 (s, 3H), 3.87 (s, 3H), 4.08 (t, J=5.9 Hz, 2 ), 6.74 (d, J=9.2 Hz, 1H), 6.78 (d, J=9.2 Hz, 2H), 6.96 (dd, J=2.2 Hz, 8.9 Hz, 1H), 7.26 (dd, J=2.2 Hz, 8.7 Hz, 1H), 7.31 (d, J=2.1 Hz, 1H), 7.46 (d, J=2.1 Hz, 1H), 7.53 (d, J=8.9 Hz, 1H), 7.75 (d, J=8.7 Hz, 2H); 13C NMR d 24.4, 26.1, 55.3, 55.9, 56.4, 57.9, 66.4, 104.7, 112.2, 114.6, 115.3, 122.8, 124.5, 127.1, 128.8, 130.6, 130.8, 131.7, 132.5, 134.1, 140.4, 140.9, 155.3, 158.1, 163.4, 193.2; MS (FD) m/e 535 (M+); Anal. calc'd. for C30H30ClNO4S: C, 67.22; H, 5.64; N, 2.61. Found: C, 66.94; H, 5.90; N, 2.34.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone | 2.3 mmol, 1.0 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | THF | 0.69 M | C1CCOC1 | C4H8O
reactant | 3-chloro-4-methoxyphenylmagnesium bromide | 7.6 mmol, 11 mL | ClC=1C=C(C=CC1OC)[Mg]Br
reactant | MeOH | CO | CH4O
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(3-Chloro-4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 760 mg, 62% | ClC=1C=C(C=CC1OC)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C30H30ClNO4S
